US08614046B2
A mixture of 3.08 parts of 4-vinylbenzoic acid and 15.00 parts of acetonitrile was stirred at 23° C. for 30 minutes. To the resultant mixture, 2.32 parts of silver oxide was added. The obtained mixture was stirred at 23° C. for 4 hours, and then, filtrated. The obtained solid was mixed with 10 parts of tert-butyl methyl ether and the resultant mixture was stirred at 23° C. for 30 minutes. The mixture was filtrated and the obtained solid was dried to obtain 4.34 parts of silver 4-vinylbenzoate.

reactant | 4-vinylbenzoic acid | C(=C)C1=CC=C(C(=O)O)C=C1 | C9H8O2
reactant | silver oxide | [Ag]=O
solvent | acetonitrile | C(C)#N | C2H3N
product | silver 4-vinylbenzoate | C(=C)C1=CC=C(C(=O)[O-])C=C1.[Ag+] | InChI=1S/C9H8O2.Ag/c1-2-7-3-5-8(6-4-7)9(10)11;/h2-6H,1H2,(H,10,11);/q;+1/p-1
